### PR TITLE
feat(GreensOpenProblems): 15

### LINKED ISSUE #1550: Green's Open Problems #15
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.15

Does there exist a Lipschitz function $f : \mathbb{N} \to \mathbb{Z}$ whose graph $\Gamma = \\{(n, f(n)) : n \in \mathbb{Z}\\} \subset \mathbb{Z}^2$ is free of 3-term progressions?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
Does there exist a Lipschitz function $f : \mathbb{N} \to \mathbb{Z}$ whose graph $\Gamma = \{(n, f(n)) : n \in \mathbb{N}\} \subseteq \mathbb{Z}^2$ is free of 3-term progressions?

- Closes #1550 
- Added the solved case for 4-term APs

# Testing
- Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/15.lean 
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/15.lean [hunk 1]
```diff
@@ -0,0 +1,56 @@
...
+namespace Green15
+
+/--
+Does there exist a Lipschitz function $f : \mathbb{N} \to \mathbb{Z}$ whose graph
+$\Gamma = \{(n, f(n)) : n \in \mathbb{N}\} \subseteq \mathbb{Z}^2$ is free of 3-term progressions?
+-/
+@[category research open, AMS 05 11]
+theorem green_15 :
+    answer(sorry) ↔ ∃ K : ℝ≥0, ∃ f : ℕ → ℤ, LipschitzWith K f ∧
+      IsAPOfLengthFree { p : ℤ × ℤ | ∃ n : ℕ, p = (↑n, f n) } 3 := by
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/15.lean]:
```suggestion
      IsAPOfLengthFree {((n, f n) : ℤ × ℤ) | (n : ℕ)} 3 := by
```
perhaps nicer?

File: FormalConjectures/GreensOpenProblems/15.lean [hunk 2]
```diff
@@ -0,0 +1,56 @@
...
+  sorry
+
+/--
+The answer is YES for 4-term progressions [BJP14].
+-/
+@[category research solved, AMS 05 11]
+theorem green_15_ap4 :
+    ∃ K : ℝ≥0, ∃ f : ℕ → ℤ, LipschitzWith K f ∧
+      IsAPOfLengthFree { p : ℤ × ℤ | ∃ n : ℕ, p = (↑n, f n) } 4 := by
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/15.lean]:
```suggestion
      IsAPOfLengthFree  {((n, f n) : ℤ × ℤ) | (n : ℕ)} 4 := by
```
same here

File: FormalConjectures/GreensOpenProblems/15.lean [hunk 3]
```diff
@@ -0,0 +1,56 @@
...
+open Set
+open scoped NNReal
+
+namespace Green15
+
+/--
+Does there exist a Lipschitz function $f : \mathbb{N} \to \mathbb{Z}$ whose graph
+$\Gamma = \{(n, f(n)) : n \in \mathbb{N}\} \subseteq \mathbb{Z}^2$ is free of 3-term progressions?
+-/
+@[category research open, AMS 05 11]
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/15.lean]:
```suggestion
@[category research open, AMS 5 11]
```

File: FormalConjectures/GreensOpenProblems/15.lean [hunk 4]
```diff
@@ -0,0 +1,56 @@
...
+theorem green_15 :
+    answer(sorry) ↔ ∃ K : ℝ≥0, ∃ f : ℕ → ℤ, LipschitzWith K f ∧
+      IsAPOfLengthFree { p : ℤ × ℤ | ∃ n : ℕ, p = (↑n, f n) } 3 := by
+  sorry
+
+/--
+The answer is YES for 4-term progressions [BJP14].
+-/
+@[category research solved, AMS 05 11]
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/15.lean]:
```suggestion
@[category research solved, AMS 5 11]
```

**Review by mo271 — APPROVED** [review]
Many thanks! Looks great: just a few nits...

Perhaps 
https://www.erdosproblems.com/193
would be easy to do as well in a follow up?

File: FormalConjectures/GreensOpenProblems/15.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/15.lean]: Oh yes, much better thank you for the suggestion

**Comment by jeangud** [comment]
Appreciate the review and the syntax improvements @mo271, thank you!

Sweet, I'll have a look at #415 :eyes:

**Comment by mo271** [comment]
Thanks again!
